US08710038B2
N-(4-{3-[5-(4-Methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-5-yl}phenyl)-N′-{4-[(trifluoromethyl)oxy]phenyl}urea:
To a solution of 4-{5-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-3-yl}aniline (45 mg, 0.12 mmol) in DMSO (2 mL) were added 1-isocyanato-4-trifluoromethoxybenzene (36.6 mg, 0.18 mmol), triethylamine (36.4 mg, 0.36 mmol) in CH3CN (1 mL) at room temperature. The reaction mixture was monitored by LC-MS until reaction was complete (1 h). The resulting mixture was concentrated in vacuo and separated by preparative HPLC (0.1% TFA/CH3CN, 0.05% TFA/water). The corresponding fractions were concentrated and dried. The resulting solid was dissolved in MeOH (1 mL) and was added 4N HCl (0.5 mL). The solution was concentrated and repeated three times to afford product (24%, 34.7 mg) as light yellow solid as the hydrochloride salt: 1H NMR (400 MHz, DMSO-d6): δ 11.07 (s, 1H), 9.68 (d, 2H), 7.79-7.57 (7H, m), 7.38-7.29 (m, 3H), 7.17 (s, 1H), 3.90 (m, 2H), 3.46 (m, 2H), 3.21 (m, 4H), 2.85 (m, 3H) MS (EI) for C29H27F3N8O2: 577.3 (MH+).

reactant | 4-{5-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-3-yl}aniline | 0.12 mmol, 45 mg | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=CC(=NN2)C2=CC=C(N)C=C2)C1 | C21H23N7
reactant | 1-isocyanato-4-trifluoromethoxybenzene | 0.18 mmol, 36.6 mg | N(=C=O)C1=CC=C(C=C1)OC(F)(F)F | C8H4F3NO2
reactant | triethylamine | 0.36 mmol, 36.4 mg | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | N-(4-{3-[5-(4-Methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-5-yl}phenyl)-N′-{4-[(trifluoromethyl)oxy]phenyl}urea | 34.7 mg, 24% | CN1CCN(CC1)C1=CC2=C(NC(=N2)C2=NNC(=C2)C2=CC=C(C=C2)NC(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C1 | C29H27F3N8O2
